Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
epinephrine
 
Attending: ___
 
Chief Complaint:
Anemia
 
Major Surgical or Invasive Procedure:
EGD - ___
Colonoscopy - ___
Capsule study - ___

 
History of Present Illness:
Ms. ___ is a ___ year-old woman
with a history of chronic GI bleeding ___ small bowel
angioectasias, iron deficiency anemia requiring regular
transfusions, COPD, PE/DVT with IVC filter, hypothyroidism, and
HTN, who presents with shortness of breath and
lightheadedness/weakness.

The patient has a known history of small bowel angioectasias for
which she has required increasing frequency of IV iron and blood
transfusions. As per her ___ PCP's notes, for the last 2 weeks
she has had an increase in her baseline dyspnea on exertion. 
Over
the past week she has had cramps in her legs and increased
fatigue. In addition, she noticed black stool two days prior to
admission. The patient's hematocrit on ___ was decreased to 23.
She tends to have symptoms of SOB when below 25%. 

On ___, the patient called her PCP for continued worsening of
her shortness of breath and was recommended to go to her local
ED. While there, she was noted to have a BNP of 1099, trop
negative, normal lytes, and an H&H of 6.5/21.6. The patient was
then transferred from ___ ___) due to a 4 point 
Hct
drop. The patient denies chest pain. Does not report abdominal
pain, nausea, vomiting, and diarrhea. She did note black stools
over last few days.

In the ED, initial VS were: T 98.1, HR 88, BP 122/72, RR 18, O2
sat 97% RA 

Exam notable for:
General: pale
Head: Normocephalic and atraumatic
Eyes: PERRL, EOMi
Lungs: CTAB
Cardiac: RRR, no murmur
Abdomen: Soft, nontender, nondistended
GU: No CVA tenderness
Rectal: heme pos black stool
Extremities: no ___ edema
Neurologic: Awake, alert, moves all extremities. Speech fluent.
Dermatologic: Skin is warm and dry. Pale.

ECG: Bigeminy, tachycardic

Labs showed: INR 1.2, Hgb 6.1

UA- moderate leukesterase, positive nitrites, few bacteria

Imaging showed: None

Consults: None

Patient received: 
IV Pantoprazole 40 mg
PO/NG LORazepam .5 mg
1u pRBCs

Transfer VS were: T 98.3, HR 90, BP 108/48, RR 22, O2 sat 96% RA 


On arrival to the floor, patient confirmed the above history.
Currently, she states that she is doing fine, but is just
frustrated by the fact that she is still having bleeding from 
her
GI tract and requiring transfusions. She states that if she lays
down she is not short of breath, but that most movement causes
her to become very short of breath. She has noted black stool
over the past couple of days. Otherwise, does not report fevers,
chills, dizziness, lightheadedness, chest pain, nausea, 
vomiting,
abdominal pain, and changes in bladder habits.

 
Past Medical History:
Chronic GI bleeding ___ small bowel angioectasias
Iron deficiency anemia requiring regular transfusions
COPD
PE/DVT with IVC filter
Hypothyroidism
HTN
 
Social History:
___
Family History:
No DM in her father. 
Mother died of CVA at age ___.  She had rheumatic fevers when she
was ___ and had significant heart disease. 
Father died of CVA at age ___. 
She had 7 siblings.  1 sister has malignant hyperthermia.  High
blood pressure in multiple siblings.  1 sister is an alcoholic. 
1 sister died of ?MI while having an asthma attack at age ___. 
One niece had cerebral hemorrhage after child birth -- diagnosed
with a hypercoagulable state -- on coumadin.  1 brother had DVT
times 2 on coumadin.  Sister had DVT and is on coumadin. 
No cancers. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 98.3 PO 131 / 56 98 18 96 RA 
GENERAL: NAD, pleasant, comfortable
HEENT: AT/NC, anicteric sclera, pale conjunctivae, MMM
NECK: supple, no LAD
CV: RRR, nl S1/S2, ___ systolic murmur heard best at the L
sternal border, no gallops or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM:
VS: T 98.3 BP 125/74 HR 86 RR 16 O2 sat 94 Ra 
GENERAL: NAD, pleasant, comfortable
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, nl S1/S2, ___ systolic murmur heard best at the L
sternal border, no gallops or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants
EXTREMITIES: no cyanosis, clubbing, or edema.
NEURO: Alert, moving all 4 extremities with purpose
 
Pertinent Results:
ADMISSION LABS:

___ 12:27AM BLOOD WBC-4.7 RBC-2.36* Hgb-6.1* Hct-20.9* 
MCV-89 MCH-25.8* MCHC-29.2* RDW-18.7* RDWSD-60.1* Plt ___
___ 12:27AM BLOOD Neuts-63.3 Lymphs-13.3* Monos-16.7* 
Eos-5.5 Baso-0.8 Im ___ AbsNeut-3.00 AbsLymp-0.63* 
AbsMono-0.79 AbsEos-0.26 AbsBaso-0.04
___ 12:27AM BLOOD ___ PTT-26.6 ___
___ 12:27AM BLOOD Plt ___
___ 12:27AM BLOOD Glucose-113* UreaN-13 Creat-0.8 Na-142 
K-4.8 Cl-106 HCO3-26 AnGap-10
___ 12:27AM BLOOD ALT-14 AST-40 AlkPhos-44 TotBili-0.2
___ 12:27AM BLOOD Albumin-3.4*
___ 10:19AM BLOOD Calcium-9.0 Phos-3.8 Mg-2.0

DISCHARGE LABS:

___ 05:15AM BLOOD WBC-6.5 RBC-3.37* Hgb-9.2* Hct-30.6* 
MCV-91 MCH-27.3 MCHC-30.1* RDW-17.5* RDWSD-58.3* Plt ___
___ 05:15AM BLOOD Glucose-101* UreaN-11 Creat-0.6 Na-139 
K-4.5 Cl-103 HCO3-26 AnGap-10
___ 05:15AM BLOOD Calcium-8.8 Phos-3.5 Mg-2.0

IMAGING/STUDIES:
___ EGD: 
Normal mucosa in the whole esophagus.
Esophageal hiatal hernia with erythema and no evident ___ 
lesions.
Normal mucosa in the whole stomach.
Normal mucosa in the whole examined duodenum.

___ Colonoscopy:
Normal mucosa in the whole colon and 5cm into the terminal 
ileum.
Polyp (3 mm) in the transverse colon. Pathology showing tubular 
adenoma.
Polyp (6 mm) in the sigmoid colon. Pathology showing tubular 
adenoma.
Single small angioectasia in the descending colon. Treated with 
APC.
The right colon was carefully evaluated in retroflexion and in 
forward view.
Otherwise normal rectal retroflexion.

Small bowel endoscopy study is pending.
 
Brief Hospital Course:
SUMMARY:
========
Ms. ___ is a ___ year-old woman with a history of chronic GI 
bleeding ___ small bowel angioectasias, iron deficiency anemia 
requiring regular transfusions, COPD, and PE/DVT with IVC 
filter, who presents with shortness of breath and 
lightheadedness/weakness with concern for continued GI bleeding 
in the setting of worsening anemia. She had normal upper 
endoscopy and colonoscopy that showed non bleeding angioectasia 
in the descending colon that was treated with argon plasma 
coagulator. She had a capsule study that showed inflammation in 
the distal ileum that may be amenable to evaluation with another 
colonoscopy that can occur as an outpatient.

TRANSITIONAL ISSUES:
====================
[ ] Follow up on final read from her capsule study performed on 
___.
[ ] Should be considered for possible colonoscopy as outpatient 
to assess findings from distal ileum vs any other suspicious 
findings from capsule study. Also needs repeat colonoscopy in ___ 
years.
[ ] Ongoing CBCs as outpatient and transfusions PRN.

ACUTE ISSUES:
===============
#GI bleeding
#Iron deficiency anemia: The patient has known chronic GI 
bleeding/oozing historically from small bowel angioectasias. Her 
initial hemoglobin was 6.1, she received 2 units with an 
appropriate bump and did not require further transfusions during 
the hospitalization. Our gastroenterology team was consulted for 
additional management. She underwent an upper endoscopy which 
was normal and a colonoscopy notable for a non-bleeding 
angioectasia in the descending colon, s/p argon plasma 
coagulator treatment. Two benign appearing polyps were removed, 
one from the transverse colon and another from the sigmoid 
colon. Final pathology showed tubular adenoma for both polyps. 
She also underwent a capsule study on ___ with preliminary 
studies showing some erythema in the distal colon but no obvious 
suspicious abnormalities. Final read on capsule study pending at 
time of discharge.

#Dyspnea
Presented with worsening dyspnea on exertion, improved with 
blood transfusions as above, supporting anemia as the driving 
factor behind her dyspnea.

#Ventricular bigeminy: Patient noted to be in ventricular
bigeminy in the ED and on the floor on telemetry in the setting 
of GI bleed. She remained asymptomatic and there is low concern 
for intrinsic
cardiac pathology.

#COPD: continued on her home inhalers.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 1 PUFF IH Q6H:PRN wheezing 
2. Cetirizine 10 mg PO DAILY 
3. Vitamin D ___ UNIT PO DAILY 
4. Citalopram 10 mg PO DAILY 
5. Ferrous Sulfate 325 mg PO BID 
6. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
7. LORazepam 1 mg PO QHS:PRN insomnia 
8. Hydrocortisone Cream 1% 1 Appl TP DAILY:PRN pruritis to legs 
and arms 

 
Discharge Medications:
1.  Albuterol Inhaler 1 PUFF IH Q6H:PRN wheezing  
2.  Cetirizine 10 mg PO DAILY  
3.  Citalopram 10 mg PO DAILY  
4.  Ferrous Sulfate 325 mg PO BID  
5.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
6.  Hydrocortisone Cream 1% 1 Appl TP DAILY:PRN pruritis to legs 
and arms  
7.  LORazepam 1 mg PO QHS:PRN insomnia  
8.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: descending colon angioectasia

SECONDARY DIAGNOSIS: Acute blood loss and iron deficiency 
anemia, COPD, dyspnea, colonic polyps

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  

You came to ___ because your blood counts were. You were found 
to have a small area of bleeding in your large colon. This was 
stopped during the colonoscopy procedure. Please see more 
details listed below about what happened while you were in the 
hospital and your instructions for what to do after leaving the 
hospital.  

It was a pleasure participating in your care. We wish you the 
best! 
 
Sincerely,  
Your ___ Care Team 
 
WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL:  
- You were evaluated by our gastroenterology team. You were 
prepared for an upper and a lower endoscopy. This test showed an 
"angioectasia" that was not actively bleeding. These are spots 
in your intestine that can bleed. This may have explained some 
of your recent blood loss. You had 2 polyps that were removed 
and sent for pathology.
- Your upper endoscopy was normal.
- You had a capsule study to look at parts of the small bowel 
that could not be seen with endoscopy or colonoscopy. This 
preliminary look at this study did not show any obvious 
abnormality, however there was a small part at the end of the 
small intestine that may have looked inflamed. Please follow up 
for consideration of another colonoscopy to address this area. 
Our final capsule study will be up in several days.
- You received blood for your anemia. Your blood counts 
stabilized afterwards.
- You improved considerably and were ready to leave the hospital 
 

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL:  
- Please follow up with your primary care doctor and other 
health care providers (see below)  
- Please take all of your medications as prescribed (see below). 
 
- Seek medical attention if you have worsening shortness of 
breath, chest pain, dark or tarry colored stools, abdominal 
pain, lightheadedness or other symptoms of concern.  

 
Followup Instructions:
___